US04540692
A solution of methyl 4-hydroxy-2-methyl-2H-1,2-benzothiazine-3-carboxylate 1,1-dioxide (1.5 g) and 2-amino-7-methoxy-2,4,6-cycloheptatrien-1-one (0.8 g) in xylene (25 ml) is refluxed for 6.5 hours. The reaction mixture is then allowed to stand at room temperature overnight. The crystals that have separated out are collected by filtration and recrystallized from dimethylformamide to give 4-hydroxy-2-methyl-N-(7-methoxy-1-oxo-2,4,6-cycloheptatrien-2-yl)-2H-1,2 -benzothiazine-3-carboxamide 1,1-dioxide (0.7 g), m.p. 243°-247° C.

reactant | methyl 4-hydroxy-2-methyl-2H-1,2-benzothiazine-3-carboxylate 1,1-dioxide | 1.5 g | OC1=C(N(S(C2=C1C=CC=C2)(=O)=O)C)C(=O)OC | C11H11NO5S
reactant | 2-amino-7-methoxy-2,4,6-cycloheptatrien-1-one | 0.8 g | NC=1C(C(=CC=CC1)OC)=O | C8H9NO2
solvent | xylene | 25 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 4-hydroxy-2-methyl-N-(7-methoxy-1-oxo-2,4,6-cycloheptatrien-2-yl)-2H-1,2 -benzothiazine-3-carboxamide 1,1-dioxide | 0.7 g | OC1=C(N(S(C2=C1C=CC=C2)(=O)=O)C)C(=O)NC=2C(C(=CC=CC2)OC)=O | C18H16N2O6S
